US07863310B2
1-(2-Fluorophenyl)-3-phenyl-1-H-pyrazole
Add dioxane (7 mL) to a mixture of 3-phenyl-1H-pyrazole (2 g, 13.9 mmol), copper iodide (132 mg, 0.05 mmol) and potassium carbonate (555 mg, 4.2 mmol). Add 2-fluoroiodobenzene (1.94 mL, 16.6 mmol), trans-cyclohexyldiamine (0.35 mL, 2.78 mmol). Heat at 110° C. for about 18 hours. Cool to RT and filter through a silica gel pad eluting with ethyl acetate. Concentrate and purify (silica gel chromatography, eluting with hexane:ethyl acetate 84:16) to give the desired compound (36%).

reactant | 3-phenyl-1H-pyrazole | 13.9 mmol, 2 g | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
reactant | potassium carbonate | 4.2 mmol, 555 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroiodobenzene | 16.6 mmol, 1.94 mL | FC1=C(C=CC=C1)I | C6H4FI
catalyst | copper iodide | 0.05 mmol, 132 mg | [Cu](I)I
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 1-(2-Fluorophenyl)-3-phenyl-1-H-pyrazole | 36% | FC1=C(C=CC=C1)N1N=C(C=C1)C1=CC=CC=C1 | C15H11FN2
